US04731374
2-Benzoylamino-6-dimethylamino-4,5,6,7-tetrahydro-benzthiazole-dihydrochloride
3.0 g (15 mMol) of 2-amino-6-dimethylamino4,5,6,7-tetrahydro-benzthiazole are dissolved in 15 ml of pyridine and 2.1 g (15 mMol) of benzoylchloride are added dropwise. After standing overnight the mixture is concentrated, mixed with soda solution and extracted with chloroform. The chloroform extract is concentrated and then chromatographed on silica gel (eluant: methylenechloride/methanol=9/1). The isolated base (melting point 174° C.) is dissolved in acetone and the dihydrochloride is precipitated with isopropanolic hydrochloric acid.

reactant | 2-amino-6-dimethylamino4,5,6,7-tetrahydro-benzthiazole | 15 mMol, 3.0 g | NC=1SC2=C(N1)CCC(C2)N(C)C | C9H15N3S
reactant | benzoylchloride | 15 mMol, 2.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-Benzoylamino-6-dimethylamino-4,5,6,7-tetrahydro-benzthiazole-dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)NC=1SC2=C(N1)CCC(C2)N(C)C | InChI=1S/C16H19N3OS.2ClH/c1-19(2)12-8-9-13-14(10-12)21-16(17-13)18-15(20)11-6-4-3-5-7-11;;/h3-7,12H,8-10H2,1-2H3,(H,17,18,20);2*1H
